US09340538B2
2-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(pyrazin-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)acetic acid
Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 2.2 mmol) was reacted with 2-(morpholin-2-yl)acetic acid hydrochloride (0.4 g, 2.2 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.36 g, 32%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(pyrazin-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2.2 mmol, 1 g | BrCC1=C(C(N=C(N1)C1=NC=CN=C1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C18H15BrClFN4O2
reactant | 2-(morpholin-2-yl)acetic acid hydrochloride | 2.2 mmol, 0.4 g | Cl.N1CC(OCC1)CC(=O)O
product | 2-(4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(pyrazin-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)acetic acid | 0.36 g, 32% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=NC=CN=C1)CN1CC(OCC1)CC(=O)O)C(=O)OCC | C24H25ClFN5O5
